US07576094B2
5,7-Diethyl-8-(hydroxymethyl)spiro[chroman-2,1′-cyclobutan]-6-ol
To a solution of 5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutane]-8-carbaldehyde (160 mg) prepared as described herein, in methanol (10 mL) was added excess of sodium borohydride and stirred at room temperature for 2 hours. Work up and chromatography (silica gel, ethyl acetate in hexane 5% to 15%) gave 130 mg of product. 1H-NMR (300 MHz, CDCl3) δ=4.80-4.70 (m, 3H), 2.85-2.55 (m, 7H), 2.30-1.60 (m, 8H), 1.20-1.10 (m, 6H) ppm. 13C-NMR (75 MHz, CDCl3) δ=146.3, 144.7, 128.2, 127.8, 124.7, 118.1, 76.9, 58.0, 34.2, 29.3, 19.6, 15.3, 13.4, 12.6 ppm. MS (m/z)=259 (100, M−OH)+.

reactant | 5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutane]-8-carbaldehyde | 160 mg | C(C)C1=C2CCC3(CCC3)OC2=C(C(=C1O)CC)C=O | C17H22O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 mL | CO | CH4O
solvent | hexane | CCCCCC | C6H14
product | 5,7-Diethyl-8-(hydroxymethyl)spiro[chroman-2,1′-cyclobutan]-6-ol | 130 mg | C(C)C1=C2CCC3(CCC3)OC2=C(C(=C1O)CC)CO | C17H24O3
